US06194409B1
To a solution of 0.5 g of L-phenylalanine t-butyl ester hydrochloride in 4 mL of N,N-dimethylformamide were added 0.67 g of 4-methoxy-2,3,6-trimethylphenylsulfonylchloride and 0.96 mL of N,N-diisopropylethylamine. After stirring for 2 hours at room temperature the reaction mixture was concentrated and the residue dissolved in ethyl acetate. The ethyl acetate solution was washed with aqueous potassium hydrogensulfate (5%), water, aqueous sodium hydrogencarbonate (5%) and brine, dried over magnesium sulfate and concentrated, The residue was dissolved in 16 mL of dichloromethane and 4 mL of trifluoroacetic acid was added. After stirring for 2h at room temperature the reaction mixture was concentrated. Dichloromethane and aqueous sodium hydrogencarbonate (5%) were added to the residue (the mixture was basic), the aqueous layer separated and washed with dichloromethane. The aqueous layer was made acid (pH 2) using 2 N hydrochloric acid and several times extracted with dichloromethane. The combined dichloromethane layers were washed with brine, dried over magnesium sulfate and concentrated to give 0.65 g of (2S)-2-[[(4-methoxy-2,3,6-trimethylphenyl)sulfonyl]amino]-3-phenylpropanoic acid. This acid (80 mg) was coupled with deprotected 5a (75 mg) according to the procedure described for 5c to afford compound 55 (55 mg) as a mixture of diastereomers (1:1). 1H-NMR 400 MHz (CD3OD) δ: 1.25-1.67 (6H, m), 1.97 and 1.99 (3H, 2x s), 2.12 and 2.17 (3H, 2x s), 2.45-3.54 (8H, m), 2.49 (3H, s), 3.81 and 3.85 (3H, 2x s), 3.82-3.92 (1H, m), 5.13-5.28 (1H, m), 6.61 (1H, s), 6.84-7.07 (5H, m), 7.17-7.21 (1H, m), 7.50-7.56 (1H, m), 7.65-7.69 (1H, m), 7.76-7.82 (1H, m), 8.30-8.35 (1H, m).

reactant | L-phenylalanine t-butyl ester hydrochloride | 0.5 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 4-methoxy-2,3,6-trimethylphenylsulfonylchloride | 0.67 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | N,N-diisopropylethylamine | 0.96 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (2S)-2-[[(4-methoxy-2,3,6-trimethylphenyl)sulfonyl]amino]-3-phenylpropanoic acid | 0.65 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=CC=C1)C)C | C19H23NO5S
